US07511050B2
Step E: 7-bromo-9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To the solution of 9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (0.50 g, 1.16 mmole) in THF (125 ml) at room temperature was added N-bromosuccinimide (0.309 g, 1.73 mmole). The mixture was stirred at 70° C. for 1 h. The mixture was concentrated and purified by preparative LCMS to yield the desired product (122 mg, 21% yield). LCMS calculated for C22H24BrN8O2 (M+H): 511.1; found: 511.0.

reactant | 9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 1.16 mmole, 0.50 g | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(=NN2)CCCC2=NC(=NO2)C2=CC=CC=C2 | C22H24N8O2
reactant | N-bromosuccinimide | 1.73 mmole, 0.309 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 7-bromo-9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 122 mg, 21% yield | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCCC3=NC(=NO3)C3=CC=CC=C3)CCCCC | C22H23BrN8O2
